US07482354B2
Ethyl 6-(hydroxymethylene)-1,5,5-trimethyl-7-oxo-4,5,6,7-tetrahydro-1H-indazole-3-carboxylate
A solution of ethyl 1,5,5-trimethyl-7-oxo-4,5,6,7-tetrahydro-1H-indazole-3-carboxylate (1.00 g, 4 mmol) in anhydrous ethyl formate (10 mL) was treated with sodium ethoxide (0.54 g, 8 mmol) and refluxed for 3 hours. The mixture was cooled to room temperature and poured into cold water (40 mL). The aqueous layer was washed with diethyl ether (40 mL) to remove unreacted staring material, acidified with a 20% NaH2PO4 solution and extracted with ethyl acetate (50 mL×2). The organic extracts were collected, dried on Na2SO4 and evaporated to dryness to obtain the title compound (0.88 g, 78.8% yield) as a brown solid.

reactant | ethyl 1,5,5-trimethyl-7-oxo-4,5,6,7-tetrahydro-1H-indazole-3-carboxylate | 4 mmol, 1.00 g | CN1N=C(C=2CC(CC(C12)=O)(C)C)C(=O)OCC | C13H18N2O3
reactant | sodium ethoxide | 8 mmol, 0.54 g | [O-]CC.[Na+]
reactant | water | 40 mL | O | H2O
solvent | ethyl formate | 10 mL | C(=O)OCC | C3H6O2
product | Ethyl 6-(hydroxymethylene)-1,5,5-trimethyl-7-oxo-4,5,6,7-tetrahydro-1H-indazole-3-carboxylate | 0.88 g, 78.8% yield | OC=C1C(CC=2C(=NN(C2C1=O)C)C(=O)OCC)(C)C | C14H18N2O4
